US06521757B1
2-[(4-Isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxyphenol.
m-Chloroperoxybenzoic acid [1.2 g, ALDRICH, 50% (remainder 3-chlorobenzoic acid and water), ca. 7.0 mmol] was added in portions over 0.25 h to a magnetically stirred mixture of 2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]5-isopropoxy-4-methoxybenzaldehyde (2.20 g, 5.75 mmol) and KHCO3 (1.73 g, 17.3 mmol) in CH2Cl2 (50 mL) maintained at 0° C. (ice-bath). The resulting slurry was stirred for a further 1 h between 0° C. and 18° C. then filtered through Celite® and the solids thus retained rinsed with CH2Cl2 (1×50 mL). The combined filtrates were concentrated under reduced pressure and the residue treated with NH3 (30 ml of a saturated methanolic solution). After 1 h at 18° C. the reaction mixture was concentrated under reduced pressure and the residue redissolved in CH2Cl2 (200 mL) then concentrated on to silica gel (8 g, 400-200 mesh). The resulting powder was loaded on top of a column of silica (40-10 mesh TLC grade, 10 cm wide×5 cm long) and eluted with 2:1, 1:1 and 1:2 hexane/CH2Cl2 then neat CH2Cl2 (250 ml of each). The appropriate fractions (Rf 0.3 in 1:2 hexane/CH2Cl2) were concentrated under reduced pressure to give the title compound (1.97 g, 92%) as white crystalline masses, mp 130-1° C. IR(KBr disc, cm−1) 3404, 2981,2935, 1620, 1573, 1513, 1467, 1450, 1418, 1383, 1373, 1330, 1269, 1240, 1214, 1166, 1135, 1113, 951. 1H NMR(300 MHz, CDCl3) δ7.03 (dd, J=1.8, 8.4 Hz, 1H), 7.00 (d, J=2.1 Hz, 1H), 6.87 (s, 1H), 6.81 (d, J=8.4 Hz, 1H), 6.53 (s, 1H), 5.81 (s, 1H), 4.52 (septet J=6.0 Hz, 2H), 3.82 (s, 3H), 3.78 (s, 3H), 1.35 (d, J=6.0 Hz, 12H). 13C NMR+APT (75.5 MHz, CDCl3) δ151.8 (C), 149.7 (C), 149.3 (C), 147.8 (C), 143.6 (C), 124.6 (CH), 115.0 (C), 114.7 (CH), 114.6 (CH), 114.3 (CH), 102.0 (CH), 100.1 (C), 94.7 (C), 82.2 (C), 71.1 (CH), 71.0 (CH), 56.4 (CH3), 55.7 (CH3), 21.9 (CH3), 21.8 (CH3). MS (70eV) m/z (%): 370 (M+•), 355(2, M+•−CH3), 328(18, M+•−CH(CH3)2], 327 (20, M+•CH2CHCH3), 286 (100, M+•−2×CH2CHCH3), 271 (42, M+•−2×CH2CHCH3—CH3). Anal. Calcd for C22H26O5 C, 71.33; H, 7.07. Found: C, 70.91; H. 7.24.

reactant | m-Chloroperoxybenzoic acid | ca. 7.0 mmol, 1.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-[(4-isopropoxy-3-methoxy-phenyl)ethynyl]5-isopropoxy-4-methoxybenzaldehyde | 5.75 mmol, 2.20 g | C(C)(C)OC1=C(C=C(C=C1)C#CC1=C(C=O)C=C(C(=C1)OC)OC(C)C)OC | C23H26O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-Isopropoxy-3-methoxy-phenyl)ethynyl]-5-isopropoxy-4-methoxyphenol | 1.97 g, 92% | C(C)(C)OC1=C(C=C(C=C1)C#CC1=C(C=C(C(=C1)OC)OC(C)C)O)OC | C22H26O5
